US08802678B2
A mixture of 2.5 g (15.9 mmol) of 3-(1,1-difluoroethyl)aniline and 2.8 g (15.9 mmol) of bis(2-chloroethyl)amine in 20 mL of chlorobenzene is refluxed overnight. After cooling to room temperature, diethyl ether is added and precipitation occurs. The solid is filtered, washed with diethyl ether and dried under reduced pressure to give 3.8 g (90%) of 1-[3-(1,1-difluoro-ethyl)phenyl]piperazine, hydrochloride as a white solid.

reactant | 3-(1,1-difluoroethyl)aniline | 15.9 mmol, 2.5 g | FC(C)(F)C=1C=C(N)C=CC1 | C8H9F2N
reactant | bis(2-chloroethyl)amine | 15.9 mmol, 2.8 g | ClCCNCCCl | C4H9Cl2N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | chlorobenzene | 20 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 1-[3-(1,1-difluoro-ethyl)phenyl]piperazine, hydrochloride | 3.8 g, 90% | Cl.FC(C)(F)C=1C=C(C=CC1)N1CCNCC1 | InChI=1S/C12H16F2N2.ClH/c1-12(13,14)10-3-2-4-11(9-10)16-7-5-15-6-8-16;/h2-4,9,15H,5-8H2,1H3;1H
